US03980661
Into 10 ml stainless steel tubes were charged 0.1 mmole RhCl3 . 3H2O, 0.4 mmole TLTTP, 4 ml pyridine, 1-2 g of nitrile and a stoichiometric equivalent amount of water. The tubes were pressurized to 150 psig with nitrogen and heated at 120° C. for 17 hours and then the products were determined. In this manner, benzonitrile was converted to benzamide and nicotinonitrile was converted to nicotinamide. These reactions were repeated on a scale up of about 10-times using methyleneglutaronitrile as the nitrile, 115° C. for 27 hours and a nitrogen pressure of 210 psig to produce 2-methyleneglutaramide.

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | nicotinonitrile | C(C1=CN=CC=C1)#N | C6H4N2
reactant | nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
reactant | methyleneglutaronitrile | C=C(C#N)CCC#N | C6H6N2
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
solvent | water | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 2-methyleneglutaramide | C=C(C(=O)N)CCC(=O)N | C6H10N2O2
